US08114874B2
(R)-N-(4-((3-(Dimethylamino)pyrrolidin-1-yl)methyl)-3-(trifluoromethyl)phenyl)-3-iodo-4-methylbenzamide:
To a cooled (0° C.) solution of (R)-1-(4-amino-2-(trifluoromethyl)benzyl)-N,N-dimethylpyrrolidin-3-amine (3.79 mmol) in 14 mL DCM, under an atmosphere of N2, was added 3-Iodo-4-methylbenzoyl chloride (1.17 g, 4.17 mmol; CAS#52107-98-9, prepared from the reaction of 3-iodo-4-methylbenzoic acid and SOCl2) followed by dropwise addition of N,N-diisopropylethylamine (2.64 mL, 15.2 mmol). After stirring to ambient temperature over 1.5 h, the reaction mixture was concentrated and the crude product was purified by silica gel chromatography (eluted with 0-8% MeOH/DCM; MeOH was pre-saturated with ammonia gas), to provide 0.71 g of product as a thick yellow oil.

reactant | (R)-1-(4-amino-2-(trifluoromethyl)benzyl)-N,N-dimethylpyrrolidin-3-amine | 3.79 mmol | NC1=CC(=C(CN2C[C@@H](CC2)N(C)C)C=C1)C(F)(F)F | C14H20F3N3
reactant | 3-Iodo-4-methylbenzoyl chloride | IC=1C=C(C(=O)Cl)C=CC1C | C8H6ClIO
reactant | 3-iodo-4-methylbenzoic acid | IC=1C=C(C(=O)O)C=CC1C | C8H7IO2
reactant | SOCl2 | O=S(Cl)Cl | Cl2OS
reactant | N,N-diisopropylethylamine | 15.2 mmol, 2.64 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | DCM | 14 mL | C(Cl)Cl | CH2Cl2
product | (R)-N-(4-((3-(Dimethylamino)pyrrolidin-1-yl)methyl)-3-(trifluoromethyl)phenyl)-3-iodo-4-methylbenzamide | 0.71 g | CN([C@H]1CN(CC1)CC1=C(C=C(C=C1)NC(C1=CC(=C(C=C1)C)I)=O)C(F)(F)F)C | C22H25F3IN3O
